US07776875B2
Preparation of Intermediate E/Z-6-Chloro-3-[5-chloro-2-(4-methoxy-phenoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-6-chloro-3-[5-chloro-2-(4-methoxy-phenoxy)-benzylidene]-1,3-dihydro-indol-2-one (15.5 g, 38 mmol) in dichloromethane (100 mL) at room temperature was added di-tert-butyl-dicarbonate (12.3 g, 56 mmol), followed by the addition of 4-dimethylaminopyridine (0.46 g, 3.8 mmol). After the reaction mixture was stirred at room temperature for 2 h, the solution was washed with 1M HCl solution and brine twice, dried over anhydrous Na2SO4 and concentrated to give the title compound as a yellow solid (16.5 g).

reactant | Z-6-chloro-3-[5-chloro-2-(4-methoxy-phenoxy)-benzylidene]-1,3-dihydro-indol-2-one | 38 mmol, 15.5 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OC1=CC=C(C=C1)OC | C22H15Cl2NO3
reactant | di-tert-butyl-dicarbonate | 56 mmol, 12.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.8 mmol, 0.46 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-6-Chloro-3-[5-chloro-2-(4-methoxy-phenoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 16.5 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC1=CC=C(C=C1)OC)=O | C27H23Cl2NO5
